US06462032B1
(Spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic Acid
To a solution of 5-bromo-spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one (13.1 g, 53 mmol) in anhydrous THF (300 cm3) under N2, was added sodium hydride (60% in mineral oil, 2.1 g, 53 mmol). After 30 minutes, the reaction mixture was cooled to −78° C. and butyl lithium (2.5 M in hexanes, 22 cm3, 53 mmol) was added slowly. After 30 minutes, tris-iso-propylborate (34 cm3, 146 mmol) was added, and the reaction mixture was slowly brought to room temperature, and stirred for 14 hours. The reaction mixture was poured into 1N HCl and extracted with EtOAc (×3). The organic layers were collected and washed with 1N HCl, water, dried (MgSO4) and evaporated to give the subtitled compound (7.8 g, 64%) as a tan solid which was used without further purification. 1H NMR (DMSO-d6) δ 10.3 (s, 1H), 7.9 (s, 1H), 7.7-7.6 (m, 2H), 6.8 (d, 1H, J=7.7 Hz), 3.4 (s, 1H), 2.0-1.7 (m, 8H); MS (FI-POS) m/z @231.

reactant | 5-bromo-spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one | 53 mmol, 13.1 g | BrC1CCCC12C(NC1=CC=CC=C21)=O | C12H12BrNO
reactant | sodium hydride | 53 mmol, 2.1 g | [H-].[Na+]
reactant | butyl lithium | 53 mmol, 2.5 M, 22 cm3 | C(CCC)[Li]
reactant | tris-iso-propylborate | 146 mmol, 34 cm3 | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 300 cm3 | C1CCOC1 | C4H8O
product | (Spiro[cyclopentane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic Acid | 7.8 g, 64% | N1C(C2(C3=CC=CC=C13)CCCC2B(O)O)=O | C12H14BNO3
